US04151280
Using the procedure of Step B of Example 1, 1-phenylbenzimidazole [prepared from N-phenyl-o-phenylenediamine with 4HCl and formic acid] and ethyl bromoacetate were reacted to obtain a 56% of 1-ethoxycarbonylmethyl-3-phenyl-benzimidazolium bromide which after crystallization from a mixture of ethyl acetate and methanol melted at 180°-181° C.

reactant | 1-phenylbenzimidazole | C1(=CC=CC=C1)N1C=NC2=C1C=CC=C2 | C13H10N2
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
product | 1-ethoxycarbonylmethyl-3-phenyl-benzimidazolium bromide | 56% | [Br-].C(C)OC(=O)C[N+]1=CN(C2=C1C=CC=C2)C2=CC=CC=C2 | InChI=1S/C17H17N2O2.BrH/c1-2-21-17(20)12-18-13-19(14-8-4-3-5-9-14)16-11-7-6-10-15(16)18;/h3-11,13H,2,12H2,1H3;1H/q+1;/p-1
